US07405221B2
2-(3,4-Difluorophenoxy)-4-methoxy-5-(4-fluorophenyl)-6-[2,4-dichlorophenyl]pyrimidine
To a 5 mL round bottom flask fitted with a stir bar and septum was added 2-(3,4-difluorophenoxy)-4-methoxy-5-trifluoromethansulfonyl-6-[2 4-dichlorophenyl]pyrimidine (85 mg, 0.16 mmol) as described in Reference Example 17, anhydrous potassium carbonate (66 mg, 0.48 mmol) and 4-fluorobenzeneboronic acid (44 mg, 0.32 mmol) in 1 mL 80/20 toluene/ethanol. The mixture was degassed under nitrogen with three freeze-thaw cycles and tetrakis(triphenylphosphine) palladium (27 mg, 0.024 mmol) was added to the reaction mixture and the mixture was heated between 75-90° C. for 4 h. The solvent was removed under reduced pressure and the residue flash chromatographed with 95/5 hexane/ethyl acetate to recover the desired product. HPLC/MS: m/e=477 (M+−1); Rt=4.54 min. 1H-NMR 500 MHz (CDCl3): δ 3.97 (s, 3H), 6.96 (m, 2H), 7.02-7.20 (m, 7H), 7.33 (d, J=2 Hz, 1H).

reactant | 2-(3,4-difluorophenoxy)-4-methoxy-5-trifluoromethansulfonyl-6-[2 4-dichlorophenyl]pyrimidine | 0.16 mmol, 85 mg | FC=1C=C(OC2=NC(=C(C(=N2)OC)S(=O)(=O)C(F)(F)F)C2=C(C=C(C=C2)Cl)Cl)C=CC1F | C18H9Cl2F5N2O4S
reactant | potassium carbonate | 0.48 mmol, 66 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluorobenzeneboronic acid | 0.32 mmol, 44 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
catalyst | tetrakis(triphenylphosphine) palladium | 0.024 mmol, 27 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | toluene ethanol | C1(=CC=CC=C1)C.C(C)O
product | 2-(3,4-Difluorophenoxy)-4-methoxy-5-(4-fluorophenyl)-6-[2,4-dichlorophenyl]pyrimidine | FC=1C=C(OC2=NC(=C(C(=N2)OC)C2=CC=C(C=C2)F)C2=C(C=C(C=C2)Cl)Cl)C=CC1F | C23H13Cl2F3N2O2
